US07202363B2
N-{4-[4-amino-7-(1-methyl-4,5-dihydro-1H-pyrazol-5-yl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl }-1-methyl-1H-indole-2-carboxamide
N-(4-{4-amino-7-[(1E)-3-oxoprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.10 g, 0.207 mmol) was stirred with methyl hydrazine (0.5 mL) at ambient temperature for 3 hours then water (8 mL) was added and the white precipitate was collected by filtration and dried to give the title compound. Rt=3.62 min (Conditions a) MS m/e: 511 (M+H)+, 509 (M−H)−

reactant | N-(4-{4-amino-7-[(1E)-3-oxoprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.207 mmol, 0.10 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\C=O | C27H22N4O3S
reactant | methyl hydrazine | 0.5 mL | CNN | CH6N2
solvent | water | 8 mL | O | H2O
product | N-{4-[4-amino-7-(1-methyl-4,5-dihydro-1H-pyrazol-5-yl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl }-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CC=NN2C | C28H26N6O2S
